US04292317
A solution of 4.3 g of 6,7-dichloro-1-ethyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid and 5.5 cm3 of piperidine in a mixture of 20 cm3 of DMF and 20 cm3 of methyl cellosolve was heated for 5 hours at 110° C. After concentration of the solution in vacuo, the residue was taken up in 50 cm3 of isopropanol. The solid was filtered off and recrystallised from methyl cellosolve (50 cm3). 2.4 g of 6-chloro-1-ethyl-4-oxo-7-piperidino-1,4-dihydro-quinoline-3-carboxylic acid, m.p. 230° C., were obtained.

reactant | 6,7-dichloro-1-ethyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 4.3 g | ClC=1C=C2C(C(=CN(C2=CC1Cl)CC)C(=O)O)=O | C12H9Cl2NO3
reactant | piperidine | 5.5 cm3 | N1CCCCC1 | C5H11N
solvent | DMF | 20 cm3 | CN(C)C=O | C3H7NO
solvent | methyl cellosolve | 20 cm3 | COCCO | C3H8O2
solvent | isopropanol | 50 cm3 | C(C)(C)O | C3H8O
product | 6-chloro-1-ethyl-4-oxo-7-piperidino-1,4-dihydro-quinoline-3-carboxylic acid | 2.4 g | ClC=1C=C2C(C(=CN(C2=CC1N1CCCCC1)CC)C(=O)O)=O | C17H19ClN2O3
